US07105530B2
To a flask containing a magnetic stir bar was added 0.03 g (0.20 mmol) of 3-methyl-1H-indazol-6-amine and 0.060 g (0.20 mmol) of 4-chloro-N-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazin-2-amine and 2 mL of isopropanol and the resultant mixture was heated at reflux for ca. 16 hours. Upon cooling the reaction mixture a solid precipitated. The solid was filtered and washed with ethyl acetate (2×4 mL), acetonitrile (4 mL), and ethyl ether (4 mL) and dried under vacuum to give N2-(3-methyl-1H-indazol-6-yl)-N4-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazine-2,4-diamine hydrochloride as a solid. The solid was purified by C-18 RP-HPLC using an acetonitrile/water gradient containing 0.5% trifluoroacetic acid buffer. Concentrating the proper fractions gave 0.015 g (10%) of N2-(3-methyl-1H-indazol-6-yl)-N4-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazine-2,4-diamine trifluoroacetate as a white solid. HNMR: δ 12.4 (br s, 1H), 9.9 (br s, 1H), 8.34(s, 1H), 7.8 (br s, 1H), 7.67 (br s, 1H), 7.56 (d, 1H), 7.29(m, 2H), 7.02 (d, 1H), 4.34 (br s, 2H), 2.83 (br s, 3H), 2.40 (s, 3H). MS (ES+, m/z)=409 (M+H).

reactant | 3-methyl-1H-indazol-6-amine | 0.20 mmol, 0.03 g | CC1=NNC2=CC(=CC=C12)N | C8H9N3
reactant | 4-chloro-N-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazin-2-amine | 0.20 mmol, 0.060 g | ClC1=NC(=NC=N1)NC1=CC(=CC=C1)CS(=O)(=O)C | C11H11ClN4O2S
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | N2-(3-methyl-1H-indazol-6-yl)-N4-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazine-2,4-diamine hydrochloride | Cl.CC1=NNC2=CC(=CC=C12)NC1=NC=NC(=N1)NC1=CC(=CC=C1)CS(=O)(=O)C | InChI=1S/C19H19N7O2S.ClH/c1-12-16-7-6-15(9-17(16)26-25-12)23-19-21-11-20-18(24-19)22-14-5-3-4-13(8-14)10-29(2,27)28;/h3-9,11H,10H2,1-2H3,(H,25,26)(H2,20,21,22,23,24);1H
